Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[O:1],4.07733596047
[H:1][C:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3]/[C:4](=[C:6](/[H:7])[C:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:5],4.28252437707
[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],2.58944108511
[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[H:8])[O:9][H:10]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[O:9][H:10],3.3020368681200005
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]#[C:8][H:9]>>[H:1][C:2]=[C:3]1[C@@:4]2([O:5][H:6])[C:7][C@@:8]12[H:9],2.24655443125
[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[H:8]>>[H:1][C:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.28954080517
[C:7]([H:8])[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:9][H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-8.73391165422
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:11]([H:12])[H:13].[O:9][H:10],6.235222622869999
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1].[O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],4.4362050142400005
[H:1].[O:2]=[C:3]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-3.77945079198
[C:1]#[C:2][C:3]([H:4])=[C:6]([H:7])[H:8].[H:5]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],-1.5136830387399998
[C:1]#[C:2][C:3](=[O:4])[H:5].[C:6]([H:7])[O:8][H:9]>>[C:1]/[C:2]([C:3](=[O:4])[H:5])=[C:6](/[H:7])[O:8][H:9],-3.37700124008
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:11]#[C:12][H:13].[H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],-3.86801708542
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:8][H:9],-2.85909858243
[H:1][C:2][C:5]([C:3][H:4])([H:6])[H:7]>>[H:1][C:2]1=[C:3]([H:4])[C:5]1([H:6])[H:7],-6.01451975
[H:1][C:2][O:3][C@:4]1([C:5]([H:6])([H:7])[H:8])[O:9][C:10]1[H:11]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:10](=[O:9])[H:11],-1.41486459396
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11]>>[H:6].[O:1][C:2]([H:3])([H:4])[C:5]#[C:7][C:8]([H:9])[O:10][H:11],3.84473329834
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-2.10324121004
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]1[C:2][C:3]1[H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-3.4686527363
[C:7][H:8].[O:1]=[C:2]=[C:3]([H:4])[C:5]=[O:6]>>[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7][H:8],-2.77220964075
[C:3]([H:4])[O:5][C:6]([H:7])[H:8].[O:1]=[C:2][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3]([H:4])[O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.11819143574
[C:1]#[C:2][C:3]([O:4][O:5][H:6])=[C:7]([H:8])[H:9]>>[C:1]#[C:2][C:3]([O:4][O:5])=[C:7]([H:8])[H:9].[H:6],3.98732883185
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15],3.90226740339
[C:1]#[C:2][C:3]([O:4][O:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C:3]([O:4][O:5])=[C:6]([H:7])[H:8].[H:9],3.93569864008
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][H:3],7.10162002
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2](=[C:3]=[C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:5],1.70843703951
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:3].[O:1]=[C:2][C@:4]([H:5])([O:6][C:7][H:8])[C:9]([H:10])([H:11])[H:12],4.02024047154
[C:4]([H:5])[H:6].[H:1][O:2]/[C:3]=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-5.55353725571
[C:2]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])#[C:10][H:11].[H:1][C:3]([H:12])[H:13]>>[H:1][C:2]([C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.94497481582
[H:12].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.44050465193
